US05137892
Step 3: 1-(2,4-difluorophenyl)-7-(1,5-dioxa-8-azaspiro[5.4]dec-8-yl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester
Into oven-dried glassware under a N2 atmosphere were placed 0.176 g (1.23 mmol) of 1,5-dioxa-8-azaspiro[5.4]decane, from Step 2, then 0.300 g (0.82 mmol) of 1-(2,4-difluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester (preparation described by H. Narita, et al., Yakugaku Zasshi, 106(9), 795-801, 1986; CA106:196218) dissolved in 10 mL of pyridine, and 0.46 mL (3.28 mmol) of triethylamine. The solution was then heated at 45° C. for 24 hours. The solvent was removed by evaporation to afford the title product which was purified by column chromatography over silica gel (0.5% methanol/chloroform increasing to 2.0% methanol/chloroform). The ester was not further purified, but was taken directly to the next step.

reactant | 1,5-dioxa-8-azaspiro[5.4]decane | 1.23 mmol, 0.176 g | O1CCCOC12CNCC2 | C7H13NO2
reactant | 1-(2,4-difluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester | 0.82 mmol, 0.300 g | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)F)C1=C(C=C(C=C1)F)F | C18H11F4NO3
reactant | triethylamine | 3.28 mmol, 0.46 mL | C(C)N(CC)CC | C6H15N
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 1-(2,4-difluorophenyl)-7-(1,5-dioxa-8-azaspiro[5.4]dec-8-yl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid ethyl ester | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)N1CC2(OCCCO2)CC1)C1=C(C=C(C=C1)F)F | C25H23F3N2O5
